US07989480B2
(S)-4-(4-Hydroxy-benzyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
A solution of Boc-L-Tyrosinol (1 g, 3.74 mmol), p-toluenesulfonic acid (0.0356 g, 0.187 mmol), and dichloromethane (DCM) (7.66 mL) was added 2,2 dimethoxypropane (2.3 mL, 18.7 mmol). The resulting mixture was stirred overnight at room temperature under nitrogen. Reaction mixture was washed with sodium bicarbonate (20 mL). Organic layer was separated and washed with sodium bicarbonate (20 mL). The sodium bicarbonate layers were combined and washed with DCM (20 mL). DCM layers were combined, dried over MgSO4, filtered, and concentrated in vacuo to obtain a crude mixture that was purified by silica gel flash chromatography, using EtOAc/hexane (gradient system) to obtain product (0.87 g, 83%): 1H NMR (400 MHz, CDCL3): δ 1.42-1.68 (m, 15H), 2.57-2.63 (m, 1H), 3.00-3.14 (m, 1H), 3.74-3.80 (m, 2H), 3.91-4.05 (m, 1H), 6.77 (t, 2H, J=8.8 Hz), 7.08 (dd, 1H, J=8.0 Hz, J=16 Hz).

reactant | Boc-L-Tyrosinol | 3.74 mmol, 1 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)CO | C14H21NO4
reactant | 2,2 dimethoxypropane | 18.7 mmol, 2.3 mL | COC(C)(C)OC | C5H12O2
catalyst | p-toluenesulfonic acid | 0.187 mmol, 0.0356 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 7.66 mL | ClCCl | CH2Cl2
product | (S)-4-(4-Hydroxy-benzyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.87 g, 83% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1=CC=C(C=C1)O)(C)C | C17H25NO4
